US07575740B2
Step 1: Pentaerythritol tetraallylether
30.7 g (0.12 mol) of pentaerythritol triallylether was dissolved in 100 ml of dry THF and 4.4 g (0.18 mol) of NaH was added in small portions while stirring. After gas evolution had ceased, 16 ml (0.18 mol) of allyl bromide was added and the reaction mixture was stirred overnight at room temperature. In order to drive the reaction to completion, it was subsequently brought to reflux and stirred for 1 hr. The precipitated salts were removed by filtration over ca. 1 cm of Celite 545 and the solvent and excess allyl bromide were evaporated, yielding 35.3 g (99.5%) of a pale yellow oil. The raw product was dissolved in 100 ml of diethyl ether and washed subsequently with 50 ml of 0.1 M aqueous KHSO4 and 50 ml of saturated aqueous NaHCO3 solution. Drying the organic layer with MgSO4 and evaporation of the solvent yielded 34.4 g (97%) of the pure product.

reactant | pentaerythritol triallylether | 0.12 mol, 30.7 g | C(C=C)OCC(COCC=C)(COCC=C)CO | C14H24O4
reactant | NaH | 0.18 mol, 4.4 g | [H-].[Na+]
reactant | allyl bromide | 0.18 mol, 16 ml | C(C=C)Br | C3H5Br
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | Pentaerythritol tetraallylether | 35.3 g, 99.5% | C(C=C)OCC(COCC=C)(COCC=C)COCC=C | C17H28O4
